US05658491
Preparation of 5-Hexyloxy-2- [4-(7-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)heptyloxy)phenyl]pyrimidine
The title compound was prepared essentially as described in Example 1 by combining 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine (3.0 g, 11.0 mmol) and 7-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromoheptane (7.7 g, 12.0 mmol; prepared by combining 1,7-dibromoheptane with 2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethanol). Product was isolated by addition of water (50 mL) to the resulting mixture, followed by filtration and recrystallization from ethanol. The recrystallized precipitate was dried at about 130° C., and the resulting product was further purified by Kugelrohr distillation (b.p. 210°-222° C. at 0.03 torr; yield 7.3 g).

reactant | 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine | 11.0 mmol, 3.0 g | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O2
reactant | 7-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromoheptane | 12.0 mmol, 7.7 g | FC(C(C(OC(C(OC(COCCCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C15H16BrF15O3
solvent | water | 50 mL | O | H2O
product | 5-Hexyloxy-2- [4-(7-(2-(2-(nonafluorobutoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)heptyloxy)phenyl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C31H35F15N2O5
